US08202856B2
Step 1: 2-ethyl-1,2,3,4-tetrahydroisoquinoline-7-carbonitrile
To a solution of 1,2,3,4-tetrahydroisoquinoline-7-carbonitrile (ABCR; 500 mg; 3.16 mmol) in MeOH (5 mL) at 0° C. was added acetaldehyde (0.51 mL, 8.91 mmol) and acetic acid (5 μL) and the resulting mixture was stirred for 1 hour. Sodium cyanoborohydride (218 mg; 3.47 mmol) was added and the mixture was stirred for 5 hours and diluted with DCM (100 mL) and water (20 mL). The aqueous layer was extracted with DCM (3×20 mL), the combined organics were dried (MgSO4) and the solvent was removed in vacuo. The residue was purified by flash chromatography on a Biotage 25+M column, eluting with petrol containing increasing amounts of EtOAc to give the title compound as a brown oil. 1H NMR: (CDCl3, 400 MHz) δ 7.39 (1H, d, J=8.0 Hz), 7.33 (1H, s), 7.19 (1H, d, J=8.0 Hz), 3.62 (2H, s), 2.99-2.90 (2H, m), 2.77-2.70 (2H, m), 2.66-2.54 (2H, m), 1.19 (3H, t, J=7.2 Hz).

reactant | 1,2,3,4-tetrahydroisoquinoline-7-carbonitrile | 3.16 mmol, 500 mg | C1NCCC2=CC=C(C=C12)C#N | C10H10N2
reactant | acetaldehyde | 8.91 mmol, 0.51 mL | C(C)=O | C2H4O
reactant | acetic acid | 5 μL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 3.47 mmol, 218 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 2-ethyl-1,2,3,4-tetrahydroisoquinoline-7-carbonitrile | C(C)N1CC2=CC(=CC=C2CC1)C#N | C12H14N2
